US06432921B1
Boc-D-Phe-Pro-OMe
To a cold (0° C.) solution of Boc-D-Phe-OH (5 g) in N,N-dimethyl formamide (200 ml) were successively added 1-hydroxy benzotriazole (4.29 g), dicyclohexyl carbodimide (4.29 g), H-Pro-OMe.HCl (3.1 g) and N-ethylmorpholine (3 ml). The mixture was stirred at 0° C. for 1 hour and then kept at room temperature for 2 days. The mixture was cooled to −20° C. and dicyclohexylurea was removed by filtration. The filtrate was evaporated to dryness. The residue was dissolved in ethyl acetate and washed successively with 5% sodium hydrogen carbonate, 0.1M hydrogen chloride-solution, saturated aqueous sodium chloride, dried over sodium sulfate and concentrated in vacuo. The residue was chromatographed on silica gel in heptane/ethyl acetate=6/4 (v/v) as eluent. The fractions containing Boc-D-Phe-Pro-OMe were pooled and evaporated. Yield: 1.5 g.

reactant | Boc-D-Phe-OH | 5 g | N([C@H](CC1=CC=CC=C1)C(=O)O)C(=O)OC(C)(C)C | C14H19NO4
reactant | 1-hydroxy benzotriazole | 4.29 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | dicyclohexyl carbodimide | 4.29 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | H-Pro-OMe.HCl | 3.1 g | N1[C@H](C(=O)OC)CCC1.Cl
reactant | N-ethylmorpholine | 3 ml | C(C)N1CCOCC1 | C6H13NO
solvent | N,N-dimethyl formamide | 200 ml | CN(C=O)C | C3H7NO
product | Boc-D-Phe-Pro-OMe | N([C@H](CC1=CC=CC=C1)C(=O)N1[C@H](C(=O)OC)CCC1)C(=O)OC(C)(C)C | C20H28N2O5
